US03950376
3-Allylthio-5-amino-4-phenoxybenzoic acid
A solution of 5-amino-3-mercapto-4-phenoxybenzoic acid (2.6 g) in saturated sodium hydrogen carbonate (120 ml) is cooled to 4° C. While cooling and stirring, allyl bromide (1 g) is added, and the reaction mixture is kept under nitrogen. After additional stirring for 10 minutes, 3-allylthio-5-amino-4-phenoxybenzoic acid is precipitated by addition of hydrochloric acid until pH 3. After collection by filtration, recrystallisation from aqueous ethanol, and drying in vacuo, the compound is obtained with a melting point of 142°-143° C.

reactant | 5-amino-3-mercapto-4-phenoxybenzoic acid | 2.6 g | NC=1C(=C(C=C(C(=O)O)C1)S)OC1=CC=CC=C1 | C13H11NO3S
reactant | allyl bromide | 1 g | C(C=C)Br | C3H5Br
solvent | sodium hydrogen carbonate | 120 ml | C(O)([O-])=O.[Na+]
product | 3-Allylthio-5-amino-4-phenoxybenzoic acid | C(C=C)SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)N | C16H15NO3S
